US08633312B2
2-[2-(3-Chlorophenyl)-ethyl]-3-methoxybenzoic acid (3)
For the synthesis of the title compound, 6.0 g of 2-[2-(3-chlorophenyl)-vinyl]-3-methoxybenzoic acid, 0.6 g of Pd/BaSO4 (5%), 4 l of hydrogen and 150 ml of methanol are employed in method J (variant 1). Yield: 87%; m.p.: 91° C.; C16H15ClO3 (Mr=290.75)

reactant | 2-[2-(3-chlorophenyl)-vinyl]-3-methoxybenzoic acid | 6.0 g | ClC=1C=C(C=CC1)C=CC1=C(C(=O)O)C=CC=C1OC | C16H13ClO3
reactant | hydrogen | 4 l | [H][H] | H2
catalyst | Pd BaSO4 | 0.6 g | [Pd].[O-]S(=O)(=O)[O-].[Ba+2]
solvent | methanol | 150 ml | CO | CH4O
product | 2-[2-(3-Chlorophenyl)-ethyl]-3-methoxybenzoic acid | Yield: 87% | ClC=1C=C(C=CC1)CCC1=C(C(=O)O)C=CC=C1OC | C16H15ClO3
